US07166607B2
ii) 3-[(4-chlorophenyl)thio]-4-cyano-2,5-dimethyl-1H-indole-1-acetic acid, methyl ester
To a stirred solution of sodium hydride (96.1 mg of 60% dispersion in mineral oil) in dry tetrahydrofuran (15 ml) was added 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole-4-carbonitrile (400 mg) in dry tetrahydrofuran (5 ml). After 30 minutes the reaction was treated with methyl bromoacetate (177 μl) and stirring continued for 4 hours. The solvent was removed in vacuo, the residue redissolved in ethyl acetate, washed with water, brine, dried (MgSO4), evaporated in vacuo and the residue purified by flash column chromatography eluting with 1:1 ethyl acetate and iso-hexane mixture. The sub-title compound was obtained as a yellow solid (360 mg).

reactant | sodium hydride | 96.1 mg | [H-].[Na+]
reactant | 3-[(4-chlorophenyl)thio]-2,5-dimethyl-1H-indole-4-carbonitrile | 400 mg | ClC1=CC=C(C=C1)SC1=C(NC=2C=CC(=C(C12)C#N)C)C | C17H13ClN2S
reactant | methyl bromoacetate | 177 μl | BrCC(=O)OC | C3H5BrO2
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3-[(4-chlorophenyl)thio]-4-cyano-2,5-dimethyl-1H-indole-1-acetic acid, methyl ester | ClC1=CC=C(C=C1)SC1=C(N(C2=CC=C(C(=C12)C#N)C)CC(=O)OC)C | C20H17ClN2O2S
